US06060477
3-Amino-4-n-propylpyridine-2-carboxamide
A mixture of ethyl 3-amino-4-n-propylpyridine-2-carboxylate (Preparation 5; 7.4 g, 0.035 mol) and liquid ammonia (60 ml) was heated in an autoclave at 100° C. for 18 hours. The mixture was allowed to cool and the ammonia to evaporate, then the residue was crystallized from methanol to give the title compound as a colourless solid (4.84 g, 76%), m.p. 139-141° C.

reactant | ethyl 3-amino-4-n-propylpyridine-2-carboxylate | 0.035 mol, 7.4 g | NC=1C(=NC=CC1CCC)C(=O)OCC | C11H16N2O2
reactant | ammonia | 60 ml | N | H3N
product | 3-Amino-4-n-propylpyridine-2-carboxamide | 4.84 g, 76% | NC=1C(=NC=CC1CCC)C(=O)N | C9H13N3O
